US04885302
(a) 1-[(3,4-Dimethoxyphenyl)methyl]-4-[(1,2,3,4-tetrahydro-2-isoquinolyl)carbonyl]pyridinium chloride
A mixture of 4.76 g (20 mmol) of 2-[(4-pyridyl)-carbonyl]-1,2,3,4-tetrahydroisoquinoline, 4.5 g (24 mmol) of 3,4-dimethoxybenzyl chloride and 200 ml of ethyl acetate is heated under reflux for 20 h. The mixture obtained is allowed to cool, and the precipitate is separated off by filtration and washed with ether. 6.6 g of salt are collected, this being used without further purification in the following stage.

reactant | 2-[(4-pyridyl)-carbonyl]-1,2,3,4-tetrahydroisoquinoline | 20 mmol, 4.76 g | N1=CC=C(C=C1)C(=O)N1CC2=CC=CC=C2CC1 | C15H14N2O
reactant | 3,4-dimethoxybenzyl chloride | 24 mmol, 4.5 g | COC=1C=C(CCl)C=CC1OC | C9H11ClO2
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 1-[(3,4-Dimethoxyphenyl)methyl]-4-[(1,2,3,4-tetrahydro-2-isoquinolyl)carbonyl]pyridinium chloride | [Cl-].COC=1C=C(C=CC1OC)C[N+]1=CC=C(C=C1)C(=O)N1CC2=CC=CC=C2CC1 | InChI=1S/C24H25N2O3.ClH/c1-28-22-8-7-18(15-23(22)29-2)16-25-12-9-20(10-13-25)24(27)26-14-11-19-5-3-4-6-21(19)17-26;/h3-10,12-13,15H,11,14,16-17H2,1-2H3;1H/q+1;/p-1
